US07507740B2
(i) Production of 2-[2-(4-{[3-chloro-4-(piperidin-4-yloxy)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate dihydrochloride
4N Hydrochloric acid/ethyl acetate solution (20 mL) and ethanol (10 mL) were added to tert-butyl 4-{4-[(5-{2-[2-(benzoyloxy)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-yl)amino]-2-chlorophenoxy}piperidine-1-carboxylate (3.82 g), and the mixture was stirred at room temperature for 5 hrs. The reaction mixture was concentrated under reduced pressure, and the obtained residue was crystallized from ethanol-ethyl acetate to give the title compound (3.68 g) as a white powder.

reactant | Hydrochloric acid ethyl acetate | 4N, 20 mL | Cl.C(C)(=O)OCC
reactant | tert-butyl 4-{4-[(5-{2-[2-(benzoyloxy)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-yl)amino]-2-chlorophenoxy}piperidine-1-carboxylate | 3.82 g | C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(OC1CCN(CC1)C(=O)OC(C)(C)C)C=C2)Cl | C33H38ClN5O6
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[2-(4-{[3-chloro-4-(piperidin-4-yloxy)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate dihydrochloride | 3.68 g | Cl.Cl.C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2CCNCC2)Cl | InChI=1S/C28H30ClN5O4.2ClH/c29-23-18-21(6-7-25(23)38-22-8-11-30-12-9-22)33-27-26-24(31-19-32-27)10-13-34(26)14-15-36-16-17-37-28(35)20-4-2-1-3-5-20;;/h1-7,10,13,18-19,22,30H,8-9,11-12,14-17H2,(H,31,32,33);2*1H
